US08648001B2
A three-necked flask in which the internal atmosphere was sufficiently replaced with nitrogen gas was charged with 50 ml of a THF solution of diethylamine (0.1 mol/50 ml). The solution was cooled to −10° C. while stirring and 100 ml of a THF solution of BuMgCl (0.1 mol/100 ml) was slowly added dropwise using a dripping funnel. After the addition, the mixture was reacted at 40° C. for two hours to complete the reaction. A slurry of Mg salt of diethylamine obtained in this manner was slowly added to 50 ml of a 0.09 mol/50 ml toluene solution of tetrakis(ethylamino)silane synthesized according to the method of Example 33 at −10° C. while stirring. After the addition, the mixture was allowed to react at 50° C. for two hours. The reaction product was centrifuged in a nitrogen stream to separate a solid from liquid. The solid was washed twice with toluene. The solution was concentrated and purified by distillation under reduced pressure. Tris(ethylamino)(diethylamino)silane thus obtained was subjected to elementary analysis to confirm that the compound consists of C: 41.32% (51.67%), H: 12.10% (12.14%), and N: 23.98% (24.10%), wherein the percentages of the parentheses are theoretical values.

reactant | tetrakis(ethylamino)silane | C(C)N[Si](NCC)(NCC)NCC | C8H24N4Si
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Tris(ethylamino)(diethylamino)silane | C(C)N[Si](N(CC)CC)(NCC)NCC | C10H28N4Si
